US06429214B1
[7-(3-tert-Butoxycarbonylaminopropoxy)-1-benzyl-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester
The title compound was prepared using the procedure of Example 75 and (1-benzyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester in place of 7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)acetic acid methyl ester and (3-bromopropyl)carbamic acid tert-butyl ester in place of (2-bromoethyl)carbamic acid tert-butyl ester.

reactant | (1-benzyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)O)CC1=CC=CC=C1)=O)=O | C19H17NO4
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | (3-bromopropyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
product | [7-(3-tert-Butoxycarbonylaminopropoxy)-1-benzyl-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)OCCCNC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C27H32N2O6
